US07790882B2
Trifluoromethanesulfonic acid (R)-1-[4-(1-phenylethylamino)-phthalazin-1-yl]-naphthalen-2-yl ester
A solution of trifluoromethanesulfonic acid 1-(4-chlorophthalazin-1-yl)-naphthalen-2-yl ester (4.9 g, 11 mmol) in (R)-1-phenylethylamine (7.2 ml, 56 mmol) was stirred for 4 hrs at 120° C., then cooled to 23° C. The resulting viscous mixture was purified by flash chromatography on silica gel (toluene/EtOAc 7:1) to give 5.4 g of the title compound as a light brown solid as a 1:1 mixture of diastereomers. (yield: 93%)

reactant | trifluoromethanesulfonic acid 1-(4-chlorophthalazin-1-yl)-naphthalen-2-yl ester | 11 mmol, 4.9 g | ClC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C19H10ClF3N2O3S
reactant | (R)-1-phenylethylamine | 56 mmol, 7.2 ml | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
product | Trifluoromethanesulfonic acid (R)-1-[4-(1-phenylethylamino)-phthalazin-1-yl]-naphthalen-2-yl ester | 5.4 g, yield: 93% | C1(=CC=CC=C1)[C@@H](C)NC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C27H20F3N3O3S
